US05066409
Preparation of 3-(3-trifluoromethylphenoxy)phenol
All apparatus is rigorously dried and flushed with nitrogen before use. The reaction is performed in a 500 mL 3-necked flask equipped with a mechanical stirrer, a reflux condenser topped with a nitrogen inlet tube and a stopper. The flask is charged with methanol (100 mL) and sodium (10.0 g, 0.43 mol). After all of the sodium has been consumed the methanol is distilled from the flask, and the last traces are removed by azeotropic distillation with benzene. Pyridine (250 mL) and resorcinol (35.0 g, 0.32 mol) are added to the reaction mixture, followed by 3-(3-trifluoromethyl phenoxy)bromobenzene (50.0 g, 0.22 mol) and cuprous chloride (20.0 g, 0.20 mol), and the mixture is left to stir at reflux for 24 hours. Capillary GC analysis shows that ca. 87% of the mixture is the desired monoalkylation product, the rest being dialkylation product. The mixture is cooled and filtered with the aid of ether (200 mL). The ethereal phase is washed successively with water (250 mL), 5% HCl (2×250 mL), saturated NaHCO3 (200 mL) and brine (200 mL). Then it is dried with MgSO4, and the solvents are removed on the rotary evaporator to leave 38 g of a dark oily residue. Purification is accomplished by fractional distillation in vacuo. The second fraction (distilling at 132° C. @ 1.5 mm) consisted of pure monoalkylation product (colorless oil, 25.20 g, 44.6% yield). The dialkylation product is not isolated.

reactant | methanol | 100 mL | CO | CH4O
reactant | sodium | 0.43 mol, 10.0 g | [Na] | Na
reactant | resorcinol | 0.32 mol, 35.0 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 3-(3-trifluoromethyl phenoxy)bromobenzene | 0.22 mol, 50.0 g | FC(C=1C=C(OC=2C=C(C=CC2)Br)C=CC1)(F)F | C13H8BrF3O
solvent | Pyridine | 250 mL | N1=CC=CC=C1 | C5H5N
product | 3-(3-trifluoromethylphenoxy)phenol | 38 g, 44.6% yield | FC(C=1C=C(OC=2C=C(C=CC2)O)C=CC1)(F)F | C13H9F3O2
